US04024265
A solution of 114 g of 1-ethoxycarbonyl-3-benzyl-4-piperidylidene-acetic acid ethyl ester in 120 cc of ethyl acetate is hydrogenated in the presence of 15 g of 10% palladium on charcoal at 11 atmospheres and at a temperature of 50° for 18 hours. After removing the catalyst, the solvent is evaporated at reduced pressure. The 1-ethoxycarbonyl-3-benzyl-4-piperidine-acetic acid ethyl ester (mixture of isomers) obtained as residue, is used for the next reaction step without purification.

reactant | 1-ethoxycarbonyl-3-benzyl-4-piperidylidene-acetic acid ethyl ester | 114 g | C(C)OC(C=C1C(CN(CC1)C(=O)OCC)CC1=CC=CC=C1)=O | C19H25NO4
solvent | ethyl acetate | 120 cc | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 15 g | [Pd] | Pd
product | 1-ethoxycarbonyl-3-benzyl-4-piperidine-acetic acid ethyl ester | C(C)OC(CC1C(CN(CC1)C(=O)OCC)CC1=CC=CC=C1)=O | C19H27NO4
